US04158013
A. N-Cyano-N'-(2-butyn-1-yl)-S-methylisothiourea
A solution of dimethyl cyanodithioiminocarbonate (10.00 g, 0.0684 mole) and 2-butyn-1-amine (4.73 g, 0.0684 mole) in acetonitrile (200 ml) was stirred at 25° for 0.5 hour, and then at reflux for 2.5 hours. The mixture was cooled, then filtered to yield the title compound, mp 180°-183°.

reactant | dimethyl cyanodithioiminocarbonate | 0.0684 mole, 10.00 g | CSC(=NC#N)SC | C4H6N2S2
reactant | 2-butyn-1-amine | 0.0684 mole, 4.73 g | C(C#CC)N | C4H7N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-Cyano-N'-(2-butyn-1-yl)-S-methylisothiourea | C(#N)NC(SC)=NCC#CC | C7H9N3S
